US06933304B2
5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoic acid
NaOH (240 mg, 6 mmol) was dissolved in water (3 mL) and MeOH (10 mL). This solution was added to methyl 5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoate (200 mg, 0.64 mmol) dissolved in MeOH (15 mL). The mixture was stirred at room temperature overnight. The reaction mixture was neutralized with 2N HCl to pH 7. The solvent was removed under reduced pressure. A citric acid solution (10 mL) was added and the mixture was extracted with ethyl acetate, dried (MgSO4) and concentrated to give 128 mg (68%) of the product. 1H NMR (CDCl3) 8.36-8.34 (m, 1H), 7.65-7.52 (m, 2H), 7.02-6.98 (m, 1H), 3.97-3.91 (m, 2H), 2.38-2.32 (m, 2H), 1.69-1.62 (m, 4H), 1.50 (s, 9H).

reactant | NaOH | 6 mmol, 240 mg | [OH-].[Na+]
reactant | methyl 5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoate | 0.64 mmol, 200 mg | C(C)(C)(C)OC(=O)N(CCCCC(=O)OC)C1=NC=CC=C1 | C16H24N2O4
reactant | HCl | 2N | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
solvent | MeOH | 15 mL | CO | CH4O
product | 5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoic acid | 128 mg, 68% | C(C)(C)(C)OC(=O)N(CCCCC(=O)O)C1=NC=CC=C1 | C15H22N2O4
